reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])(/[N:5]=[C:6](/[O:7][H:15])[H:16])[H:11])([H:8])([H:9])[H:10],44.960033796880296
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])/[C:4]1=[C:5](/[O:6][H:13])[H:14])([H:7])([H:8])[H:9],70.89228041799579
[C:1]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:2](=[N:3][H:13])([H:11])[H:12]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],89.74822542552711
[C:1]([C:2](=[C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],63.2057803151412
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:6](/[C:3]([C:4]#[N:5])([H:12])[H:13])[C:7][H:14])[H:11])([H:8])([H:9])[H:10],90.6275625830621
[O:1]([C:2]([C:3]1=[C:6]([H:13])[C:5]([H:11])([H:12])[C:4]1=[O:7])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],124.2800440688398
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([C:3]#[N:4])=[C:5](\[O:6][H:11])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],60.4379631298526
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]([C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])[H:7])([H:8])[H:9],83.0103524864385
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C+:3]=[C:5]([O-:6])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15],87.60634760300009
[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]=[C:2]([C:3]([N+:5]#[C-:4])([H:7])[H:8])[H:6],59.950235437993896
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][H:11])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10],44.5407151802532
[C-:2]([O+:3]=[C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])[H:13])([H:11])[H:12].[C:1]([H:8])([H:9])([H:10])[H:14]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],26.3723506142112
[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],59.7016423483433
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([O:5][H:12])=[C:6]([H:14])[C:7]1([H:13])[H:15])[H:8],62.097254765036
[C:1]([C:2]([C:3]#[C:4][C:5]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1=[C:4]=[C:5]([H:12])[H:13].[H:6][H:11],101.199643175412
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:6][C:5]([H:14])=[C:4]1[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],56.206238306979344
[C:1]([N:2]([C:3]([N+:5]#[C-:4])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],29.089706475179604
[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[C:3](/[O:4][C:5]([H:13])([H:14])[H:15])[H:12])[H:10])([H:6])([H:8])[H:11].[H:7][H:9],137.390450656347
[C:5]1([H:11])([H:12])[C:6]([H:13])([H:14])[O:7]1.[N:1]([C+:2]([O:3][H:15])[N-:4][H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],47.8185868064249
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:4]/[C:3](=[N:2]/[H:11])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])([H:9])[H:10],75.8518340361454
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C-:4]=[O+:5][C@:6]1([H:14])[C:7]2([H:13])[H:15])([H:8])([H:9])[H:10],67.0888843266551
[C:1]([O:4]/[C:3](=[C:2](/[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],76.0152561370653
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:18].[C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11].[C:5](=[O:6])([H:16])[H:17],94.3690029402639
